US05002967
Ethyl 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate
To a solution of 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol (2.0 g, 8.4 mmole) and ethyl 2-bromopropanoate (1.52 g, 8.4 mmole) in tetrahydrofuran (50 ml) was added triethylamine (0.85 g, 8.4 mmole) The mixture was stirred at room temperature for 20 hours. Solids were removed by filtration and the filtrate was added to diethyl ether (75 ml) and then washed with 1 N hydrochloric acid (50 ml), dried over magnesium sulfate, filtered, and concentrated in vacuo to an oil. Chromatography on silica gel gave the title compound

reactant | 2,6-bis(1,1-dimethylethyl)-4-mercaptophenol | 8.4 mmole, 2.0 g | CC(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | ethyl 2-bromopropanoate | 8.4 mmole, 1.52 g | BrC(C(=O)OCC)C | C5H9BrO2
reactant | triethylamine | 8.4 mmole, 0.85 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ethyl 2-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C(=O)OCC)C | C19H30O3S
